US08389717B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-methoxy-6-piperidin-1-yl-[1,3,5]triazin-2-yl)-amine
This compound was prepared from (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and piperidine in analogy to example 1c. Chromatography on Si—NH2 gel (Isolute) using ethyl acetate as an eluent gave the title compound as a colorless solid in 22% yield.

reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-methoxy-6-piperidin-1-yl-[1,3,5]triazin-2-yl)-amine | 22% yield | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC(=NC(=N1)OC)N1CCCCC1 | C20H25N7O2
